US03952001
A mixture of 5.25 g. 3-propylsulphonyl-1,2,4-triazole, 5.3 g. diallylcarbamoyl chloride, 25 ml. dry tetrahydrofuran and 6 ml. dry triethylamine was refluxed under anhydrous conditions for 1.5 hours. The reaction mixture was worked up as described in Example 1 to give a solid product which was recrystallized from petroleum ether (b.p. 60° - 80°C.) to give 1-diallylcarbamoyl-3-propylsulphonyl-1,2,4-triazole, m.p. 41° - 42°C. Elemental analysis satisfactory.

reactant | 3-propylsulphonyl-1,2,4-triazole | C(CC)S(=O)(=O)C1=NNC=N1 | C5H9N3O2S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-diallylcarbamoyl-3-propylsulphonyl-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)S(=O)(=O)CCC)CC=C | C12H18N4O3S
